US08455488B2
Synthesis of (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-3)
According to the procedure described in the synthesis method of Compound III-1, (S)-1,1-diethoxy-N-(quinolin-8-ylmethyl)propan-2-amine (Compound IX-3) 1.33 g (4.6 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid 2.22 g (4.84 mmol) and purified on Buch silica gel column chromatography (n-hexane:ethyl acetate=4:6) to obtain the title compound 2.41 g (68%).

reactant | (S)-1,1-diethoxy-N-(quinolin-8-ylmethyl)propan-2-amine | 4.6 mmol, 1.33 g | C(C)OC([C@H](C)NCC=1C=CC=C2C=CC=NC12)OCC | C17H24N2O2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 4.84 mmol, 2.22 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 2.41 g, 68% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C45H51N3O6
